US07662965B2
Synthesis of methyl 3-(5-((2-(pyridin-3-yl)-5,6-dihydropyridin-3(4H)-ylidene)methyl)furan-2-yl)thiophene-2-carboxylate dihydrochloride
3-(5-Ammoniopentanoyl)pyridinium chloride (99 mg, 0.39 mmol) and methyl 3-(5-formyl-2-furyl)thiophene-2-carboxylate (102 mg, 0.43 mmol) were combined in a reaction vessel and treated with isopropanol (6 mL). The reaction vessel was sealed and the reaction was heated to 80° C. with stirring overnight. The reaction was cooled to room temperature. The precipitate was recovered by vacuum filtration, then treated with saturated NaHCO3(aq) and extracted three times with EtOAc. The EtOAc extracts were washed with brine, combined, dried over Na2SO4, filtered, concentrated under reduced pressure, and eluted through a 20 gram column of silica gel with 99:1:0.1 CH2Cl2:MeOH:NH4OH (1 liter). The recovered material was dissolved into MeOH and treated with 2 eq. of 6 N HCl(aq). This solution was concentrated under reduced pressure and the recovered material was dissolved into hot isopropanol to re-crystallize. Crystals were recovered by vacuum filtration, washed with a 20 isopropanol in hexane solution, and then with ether, then dried under vacuum giving 86 mg (48%) of an orange solid. LC-MS: RT=5.25 min, [M+H]+=379.0.

reactant | 3-(5-Ammoniopentanoyl)pyridinium chloride | 0.39 mmol, 99 mg | [Cl-].[NH3+]CCCCC(=O)C=1C=[NH+]C=CC1.[Cl-]
reactant | methyl 3-(5-formyl-2-furyl)thiophene-2-carboxylate | 0.43 mmol, 102 mg | C(=O)C1=CC=C(O1)C1=C(SC=C1)C(=O)OC | C11H8O4S
reactant | HCl | 6 N, 2 eq. | Cl | ClH
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | methyl 3-(5-((2-(pyridin-3-yl)-5,6-dihydropyridin-3(4H)-ylidene)methyl)furan-2-yl)thiophene-2-carboxylate dihydrochloride | 86 mg, 48% | Cl.Cl.N1=CC(=CC=C1)C1=NCCCC1=CC1=CC=C(O1)C1=C(SC=C1)C(=O)OC | InChI=1S/C21H18N2O3S.2ClH/c1-25-21(24)20-17(8-11-27-20)18-7-6-16(26-18)12-14-4-3-10-23-19(14)15-5-2-9-22-13-15;;/h2,5-9,11-13H,3-4,10H2,1H3;2*1H
